US08895744B2
3-chloro-6-(4-(2-(4-methylpiperazin-1-yl)ethoxy)phenyl)-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indole (40)
To a solution of 4-(3-chloro-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indol-6-yl)phenol (240 mg, 0.55 mmol, 1 equiv.) in anhydrous THF (14 ml), triphenylphosphin (577 mg, 2.2 mmol, 4 equiv.) and 2-(4-methylpiperazin-1-yl)ethanol (397 mg, 2.75 mmol, 5 equiv.) are added. DIAD (445 mg, 2.2 mmol, 4 equiv.) is then added dropwise to the solution which is stirred at room temperature for 12 hours. The mixture is then extracted with a solution of HCl 0.1M (3×10 ml). The aqueous layer is treated with Na2CO3 until pH=9 and then extracted with AcOEt (3×20 ml). The organic layers are dried over MgSO4, filtered and concentrated under reduced pressure. The residue (yellow solid) is purified over silica chromatography (eluted with AcOEt/MeOH 9:1 and then THF/MeOH 9:1) to give the product as a white solid (259 mg, 0.44 mmol) in 80% yield. 1H NMR (300 MHz, CDCl3) δ 8.47 (dd, 2H, J=2.5, 7.7 Hz), 8.17 (d, 1H, J=2.1 Hz), 8.13 (d, 2H, J=7.5 Hz), 8.00 (d, 1H, J=0.9 Hz), 7.76 (dd, 1H, J=1.5, 8.6 Hz), 7.57-7.39 (m, 5H), 7.55 (d, 2H, J=8.6 Hz), 7.01 (d, 2H, J=8.5 Hz), 4.17 (t, 2H, J=5.6 Hz), 2.87 (t, 2H, J=5.6 Hz), 2.70-2.58 (br d, 8H), 2.35 (s, 3H).

reactant | 4-(3-chloro-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indol-6-yl)phenol | 0.55 mmol, 240 mg, 1 equiv. | ClC1=CC2=C(N(C3=CC=C(C=C23)C2=CC=C(C=C2)O)S(=O)(=O)C2=CC=CC=C2)N=C1 | C23H15ClN2O3S
reactant | triphenylphosphin | 2.2 mmol, 577 mg, 4 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4-methylpiperazin-1-yl)ethanol | 2.75 mmol, 397 mg, 5 equiv. | CN1CCN(CC1)CCO | C7H16N2O
reactant | DIAD | 2.2 mmol, 445 mg, 4 equiv. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | THF MeOH | C1CCOC1.CO
product | 3-chloro-6-(4-(2-(4-methylpiperazin-1-yl)ethoxy)phenyl)-9-(benzenesulfonyl)-9H-pyrido[2,3-b]indole | 0.44 mmol, 259 mg, 80% yield | ClC1=CC2=C(N(C3=CC=C(C=C23)C2=CC=C(C=C2)OCCN2CCN(CC2)C)S(=O)(=O)C2=CC=CC=C2)N=C1 | C30H29ClN4O3S
